### PR TITLE
refactor: section for seq_in, simplify a proof

### PR DESCRIPTION
**Pull request by anton-trunov**
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/48)

### CODE REVIEW

File: utilities.v [hunk 1]
```diff
@@ -171,37 +171,32 @@ Proof. by rewrite !orbT. Qed.
...
 Hint Resolve orbT orbTb orbbT orbbbT orbbbbT : core.
 
-(* ******************************************************************************** *)
-(*     Mapping using proof of a membership                                          *)
-(* ******************************************************************************** *)
+(* ************************************************************************** *)
+(*     Mapping using proof of membership                                      *)
+(* ************************************************************************** *)
+
+Section SeqElemsPairedWithProofOfMembership.
```
Comment (eupp) [inline utilities.v:178]: This name for the section have a Java smell :) 
Could we rename it to be shorter?
Usually, the name of the section reflects the main concept defined inside the section. 
Perhaps, in this case, we can use just `SeqIn`?

File: utilities.v [hunk 2]
```diff
@@ -171,37 +171,32 @@ Proof. by rewrite !orbT. Qed.
...
+  (if s' is h :: t then
+     fun sub => exist _ h (mem_subseq sub (mem_head h t)) ::
+       seq_in_sub s t (subseq_trans (subseq_cons t h) sub)
+   else fun=> [::]) sub.
 
-Definition seq_in {T : eqType} (s : seq T) := seq_in_sub s s (subseq_refl s).
+Definition seq_in s : seq {x in s} := seq_in_sub s s (subseq_refl s).
 
-Lemma sval_seq_in_sub {T : eqType} (s s' : seq T) sub: 
+Lemma sval_seq_in_sub s s' sub :
```
Comment (eupp) [inline utilities.v:191]: I've already told it to @volodeyka in the previous PR. 
Let's start the discussion again :)
Do we really need these two lemmas (this one and `seq_in_subE`) to be defined for `seq_in_sub`
instead of `seq_in`?

Comment (anton-trunov) [reply utilities.v:191]: That's a good point but it's not related to the goal of the PR. It's just a refactoring of the existing code with the hope of developing a better personal understanding of the codebase as well as making it more idiomatic. I was holding these refactorings so not to create more merge conflicts when the development was a lot more active.

File: utilities.v (hunk 1 above)
Comment (anton-trunov) [reply utilities.v]: Well, section don't add namespaces, so this is just a descriptive name one is never going to refer to in the code. But this is not something I really care about, so I changed it.

File: utilities.v (hunk 2 above)
Comment (eupp) [reply utilities.v:191]: > That's a good point but it's not related to the goal of the PR. It's just a refactoring of the existing code with the hope of developing a better personal understanding of the codebase as well as making it more idiomatic. I was holding these refactorings so not to create more merge conflicts when the development was a lot more active.

Ok

**Review by eupp — APPROVED** [review]
